US05037986
Using the method of Example 18, the product of Example 30, 0.2g (0.0010 mole) of 4-chloro-1H-imidazo[4,5-c]quinoline was aminated at 175 ° C. in 12% ammonia in methanol to provide 1H-imidazo[4,5-c]quinolin-4-amine. The structure was verified by comparison of infrared and nuclear magnetic resonance spectra of the product with spectra of the product from Example 32 below.

reactant | 4-chloro-1H-imidazo[4,5-c]quinoline | 0.0010 mole, 0.2g | ClC1=NC=2C=CC=CC2C2=C1N=CN2 | C10H6ClN3
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 1H-imidazo[4,5-c]quinolin-4-amine | N1C=NC=2C(=NC=3C=CC=CC3C21)N | C10H8N4
